US05753138
N-(3-chlorobenzoyl)caprolactam:
Synthesized as for N-(4-nitrobenzoyl)caprolactam (Example XXIII using 3-chlorobenzoyl chloride (Aldrich) in place of 4-nitrobenzoyl chloride.

reactant | N-(4-nitrobenzoyl)caprolactam | [N+](=O)([O-])C1=CC=C(C(=O)N2C(CCCCC2)=O)C=C1 | C13H14N2O4
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | N-(3-chlorobenzoyl)caprolactam | ClC=1C=C(C(=O)N2C(CCCCC2)=O)C=CC1 | C13H14ClNO2
